* C:\users\mateod\My Documents\Labs_Sintesis_Redes_Activas\Lab1_OA_Ideal\Circuito4 - Comparador_Hist\Comp_Hist.asc
XU1 N002 N001 V+ 0 Vout LM324/NS
R1 Vin N001 10k
R2 N001 0 10k
R3 N002 Vref 2k
R4 Vout N002 10k
V1 Vref 0 2
V2 Vin 0 SINE(0 10 1k)
V3 V+ 0 10
V4 Vcc 0 10
V5 0 Vss 10
* FUENTE ALIMENTACION
* SEÑAL DE ENTRADA
* SEÑAL DE REFERENCIA
* COMPARADOR CON HISTÉRESIS
.tran 5m
.lib ns_models.lib
.backanno
.end
