* C:\users\mateod\My Documents\Labs_Sintesis_Redes_Activas\Lab1_OA_Ideal\Circuito2 - Fuente_I_Control_v\Fuente_I_V.asc
R2 Vout N001 10k
R1 Vout N002 100
R3 N002 Vin 1k
RL 0 N002 {RL}
R4 0 N001 100k
V1 Vcc 0 10
V2 0 Vss 10
V3 Vin 0 2
XU1 N002 N001 Vcc Vss Vout LM324_AB
* FUENTE DE CORRIENTE CONTROLADA POR TENSIÓN
* SEÑAL DE ENTRADA
* FUENTE DE ALIMENTACIÓN
.dc V3 -10 10 0.01
.param RL 1k
.step param RL  list 1k 2k 5k 10k
.lib LM324_AB.sub
.backanno
.end
