* C:\users\mateod\My Documents\Labs_Sintesis_Redes_Activas\Lab1_OA_Ideal\Circuito3 - Rectificador_Precis\Rect_Precis.asc
D1 Vo1 N001 D
R1 N002 N001 10k
R2 N003 N002 5k
R3 N001 0 10k
D2 N002 Vo1 D
V1 Vcc 0 10
V2 0 Vss 10
V3 Vin 0 SINE(0 1.2 1k)
R4 VoutOA N003 10k
XU1 Vin N001 Vcc Vss Vo1 LM324_AB
XU2 Vin N003 Vcc Vss VoutOA LM324_AB
D3 N004 VoutR D
D4 0 N004 D
D5 0 N005 D
D6 N005 VoutR D
V4 N004 N005 SINE(0 1.2 1k)
R5 VoutR 0 1k
.model D D
.lib C:\users\mateod\My Documents\LTspiceXVII\lib\cmp\standard.dio
* RECTIFICADOR DE PRECISIÓN
* FUENTE DE ALIMENTACIÓN
* SEÑAL DE ENTRADA
.tran 10m
.lib LM324_AB.sub
.backanno
.end
